US07829560B2
To a solution of 3-tert-butoxy-benzoic acid (0.15 g, 0.774 mmol) in dimethylformamide (5 ml) is added HBTU (0.44 g, 1.5 eq) followed by the addition of diisopropylethylamine (0.296 ml, 3.0 eq). The mixture is stirred at room temperature for five minutes. A solution of 4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-ylamine (0.21 g) in dimethylformamide (2 ml) is then added. This mixture is stirred at room temperature for 15 h, diluted with water and extracted with ethyl acetate. The organic layer is washed with water, dried over Na2SO4 and evaporated. The residue is purified by column chromatography on silica gel (ethyl acetate) to give 3-tert-butoxy-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-benzamide (0.146 g). Mp: 50-51° C. 1H NMR (300 MHz, DMSO-d6) δ 10.25 (s, 1H), 8.22 (m, 1H), 7.85 (m, 2H), 7.66 (s, 1H), 7.55 (m, 2H), 7.23 (d, J=7.5 Hz, 1H), 7.03 (d, J=8.1Hz, 1H), 4.31 (t, J=5.1Hz, 2H), 3.61 (t, J=4.2 Hz, 4H), 2.89 (brs, 2H), 2.58 (brs, 4H), 1.35 (s, 9H). MS: 449 (M+1).

reactant | 3-tert-butoxy-benzoic acid | 0.774 mmol, 0.15 g | C(C)(C)(C)OC=1C=C(C(=O)O)C=CC1 | C11H14O3
reactant | HBTU | 0.44 g, 1.5 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 0.296 ml, 3.0 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-ylamine | 0.21 g | N1(CCOCC1)CCOC1=CC=C(C2=CC=CC=C12)N | C16H20N2O2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-tert-butoxy-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-benzamide | 0.146 g | C(C)(C)(C)OC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCCN2CCOCC2)C=CC1 | C27H32N2O4
